US04200641
To a stirred mixture of 93 parts of 3-(2-aminophenyl)amino-1-propanol, 45.5 parts of potassium hydroxide and 600 parts of an ethanol solution 85% in water are added dropwise 60.8 parts of carbon disulfide. Upon completion, stirring is continued for 6 hours at reflux temperature. The reaction mixture is evaporated and the residue is taken up in 1500 parts of water. The whole is filtered over hyflo and the filtrate is acidified with acetic acid. The oily product solidifies on scratching. It is filtered off, washed with water and dried, yielding 2-mercapto-1H-benzimidazole-1-propanol; mp. 110° C.

reactant | 3-(2-aminophenyl)amino-1-propanol | NC1=C(C=CC=C1)NCCCO | C9H14N2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | carbon disulfide | C(=S)=S | CS2
solvent | water | O | H2O
product | 2-mercapto-1H-benzimidazole-1-propanol | SC1=NC2=C(N1CCCO)C=CC=C2 | C10H12N2OS
